US04067906
reacting the 4-methyl-4(4-methyl-1,3-cyclohexadien-1-yl)pentanoic acid with vinyl lithium to form the intermediate 6-methyl-6(4-methyl-1,3-cyclohexadien-1-yl)hepten-3-one which is converted via an internal Diels-Alder reaction to form the 1,7,7-trimethyltricyclo[6.2.2.03,8 ]dodec-9-en-4-one.

reactant | 4-methyl-4(4-methyl-1,3-cyclohexadien-1-yl)pentanoic acid | CC(CCC(=O)O)(C)C1=CC=C(CC1)C | C13H20O2
reactant | vinyl lithium | C(=C)[Li]
product | 6-methyl-6(4-methyl-1,3-cyclohexadien-1-yl)hepten-3-one | CC(CCC(C=C)=O)(C)C1=CC=C(CC1)C | C15H22O
